US05348965
To a solution of 2-(2-chloroethoxy)ethanol (3.9 g, 31 mmol) in dichloromethane (15 ml) kept at 0° C. was added triethylamine (6.2 g, 61 mmol). A solution of methanesulfonyl chloride (3.6 g, 31 mmol) in dichloromethane (15 ml) was carefully added keeping the temperature below 0° C. When addition was complete the reaction mixture was left overnight at room temperature and then diluted with dichloromethane (150 ml). The organic phase was washed with a 2 N hydrochloric acid solution (75 ml) and water (75 ml) and dried over magnesium sulphate. The solvent was evaporated in vacuo to give 6.3 g of crude 2-(2-chloroethoxy)ethyl mesylate as an oil. A suspension of 5,6,11,12-tetrahydrodibenz[b,f]azocine (5.0 g, 20 mmol) in dry THF (75 ml) placed under an atmosphere of nitrogen was cooled to -68° C. A solution of n-butyl lithium in hexanes (19 ml, 49 mmol, 2.5 M) was added dropwise keeping the temperature below -60° C. When addition was complete stirring was continued at this temperature for 30 minutes and then the reaction mixture was left overnight at room temperature. The mesylate prepared above was dissolved in dry THF (50 ml) and added dropwise to the reaction mixture. When addition was complete the mixture was stirred at room temperature for 168 h. Ice was added (80 g) and the phases were separated. The aqueous phase was extracted with diethyl ether (2×50 ml). The combined organic phases were washed with water (2×50 ml) and dried over magnesium sulphate. The solvent was evaporated in vacuo to give a residue which was submitted to column chromatography on silica gel using a mixture of ethyl acetate and n-heptane (2:3) as eluent. This afforded 2.5 g of 2-(2-(5,6,11,12-tetrahydrodibenz[b,f]azocin-12-yl)ethoxy)ethylchloride as an oil.

reactant | 2-(2-chloroethoxy)ethanol | 31 mmol, 3.9 g | ClCCOCCO | C4H9ClO2
reactant | triethylamine | 61 mmol, 6.2 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 31 mmol, 3.6 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-(2-chloroethoxy)ethyl mesylate | 6.3 g | S(C)(=O)(=O)OCCOCCCl | C5H11ClO4S
